US07612067B2
A. 2-(4-Chloro-thiophen-2-yl)-6-methyl-pyridine.
To a solution of 2-bromo-4-chloro-thiophene (Gronowitz, Rosén Chemica Scripta, 1971, 1, 33) (1.50 g, 7.60 mmol) and 0.5 M solution of 6-methyl-2-pyridylzinc bromide in THF (23.00 mL, 11.39 mmol) is added Pd(PPh3)4 (0.18 g, 0.15 mmol). The solution is heated at 40° C. overnight, diluted with Et2O (50 mL), washed with sat. NH4Cl (40 mL), dried over MgSO4, filtered on concentrated. The residue is purified by ISCO column chromatography (5%-20% EtOAc/hexane gradient) furnish the title compound (0.45 g, 2.15 mmol, 28%). 1H NMR (CDCl3), δ 2.56 (s, 3H), 7.02 (d, 7.7 Hz, 1H), 7.13 (d, J=0.9 Hz, 1H), 7.36 (d, J=7.9 Hz, 1H), 7.39 (d, J=0.9 Hz, 1H), 7.54 (dd, J=7.9, 7.7, 1H).

reactant | 2-bromo-4-chloro-thiophene | 7.60 mmol, 1.50 g | BrC=1SC=C(C1)Cl | C4H2BrClS
reactant | 6-methyl-2-pyridylzinc bromide | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 11.39 mmol, 23.00 mL | C1CCOC1 | C4H8O
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 0.15 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Chloro-thiophen-2-yl)-6-methyl-pyridine | 2.15 mmol, 0.45 g, 28% | ClC=1C=C(SC1)C1=NC(=CC=C1)C | C10H8ClNS
